US04515968
PREPARATION OF BENZALDEHYDE DIPROPYL MERCAPTAL
Into a 100 cc reaction flask equipped with reflux condenser, magnetic stirring bar, and hot plate equipped with magnetic stirring apparatus is placed 10 ml cyclohexane, 0.5 grams of para-toluenesulfonic acid and 15.2 grams (0.2 moles) of n-propyl mercaptan. Over a period of 25 minutes with stirring is added 10.6 grams (0.1 moles) of benzaldehyde. The reaction mass is heated to reflux with stirring and refluxed for a period of 7 hours. During the refluxing, water of reaction is removed. At the end of the 7 hour period, the reaction mass is cooled to room temperature and transferred to a separatory funnel. The reaction mass is then washed with one 50 ml portion of a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate and filtered. The resulting filtrate is distilled on a Microvigreux column yielding the following five fractions:

reactant | cyclohexane | 10 ml | C1CCCCC1 | C6H12
reactant | para-toluenesulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-propyl mercaptan | 0.2 moles, 15.2 grams | C(CC)S | C3H8S
reactant | benzaldehyde | 0.1 moles, 10.6 grams | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | O | H2O
product | BENZALDEHYDE DIPROPYL MERCAPTAL | C(CC)SC(C1=CC=CC=C1)SCCC | C13H20S2
